US06964961B2
B. 1-{5-[2-(2R)-(2-Methoxymethyl-pyrrolidine-1-carbonyl)-thieno[3,2-b]pyridin-7-ylamino]-2-methyl-indol-1-yl}-ethanone
The title compound was prepared by method analogous to Example 70A using (2R)-(2-methoxymethyl-pyrrolidin-1-yl)-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-methanone and acetyl chloride as starting materials. MS: 463 (MH+); HPLC Rf: 4.88 min; HPLC purity: 94%.

reactant | (2R)-(2-methoxymethyl-pyrrolidin-1-yl)-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-methanone | COC[C@@H]1N(CCC1)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C23H24N4O2S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1-{5-[2-(2R)-(2-Methoxymethyl-pyrrolidine-1-carbonyl)-thieno[3,2-b]pyridin-7-ylamino]-2-methyl-indol-1-yl}-ethanone | COC[C@@H]1N(CCC1)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(N(C2=CC1)C(C)=O)C | C25H26N4O3S
